US06500863B1
N-allyl-2-acetyl-6-chloro-3-nitro-benzenesulfonamide
A mixture of 2-acetyl-6chloro-3-nitrobenzenesulfonamide (150 mg, 0.51 mmol), potassium carbonate (84 mg, 0.61 mmol) and allyl bromide (0.18mL, 2.mmol) in 3 mL of N, N-dimethylformamide was heated to 60° C. for 4 days. The mixture was acidified with 1 N aq. HCl, then extracted with ethyl acetate. The solvent was concentrated to give the crude material. Colurnt chromatography on silica gel, eluting with ethyl acetate/hexane/acetic acid (50/49/1, v/v/v), gave the desired product (40 mg, 12%). EI-MS (m/z) 333.3, 335.2 (M−).

reactant | 2-acetyl-6chloro-3-nitrobenzenesulfonamide | 0.51 mmol, 150 mg | C(C)(=O)C1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N | C8H7ClN2O5S
reactant | potassium carbonate | 0.61 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.18mL | C(C=C)Br | C3H5Br
reactant | HCl | 1 N | Cl | ClH
solvent | N, N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-allyl-2-acetyl-6-chloro-3-nitro-benzenesulfonamide | 40 mg, 12% | C(C=C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])C(C)=O | C11H11ClN2O5S
